US07560596B2
Synthesis of 4-dec-1-ynyl-benzoic acid (FIG. 6, Entry 3)
The general procedure described in Example 27 was used with 4-chlorobenzoic acid (79 mg, 0.50 mmol), 1-decyne (0.136 mL, 0.75 mmol), PdCl2(CH3CN)2 (3.2 mg, 0.0125 mmol, 1.25 mol %), sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate (20.0 mg, 0.0375 mmol, 3.75 mol %), Cs2CO3 (650 mg, 2.00 mmol), water (1.0 mL), acetonitrile (1.0 mL), 12 h, 100° C. The product was isolated as a white solid (111 mg, 86%). Mp=103° C. 1H NMR (400 MHz, CDCl3) δ: 11.0 (br-s, 1H), 8.04 (d, 2H, J=8.4 Hz), 7.49 (d, 2H, J=8.4 Hz), 2.46 (t, 2H, J=6.8 Hz), 1.64 (p, 2H, J=6.8 Hz), 0.89-1.49 (m, 13H). 13C NMR (125 MHz, CDCl3) δ: 169.3, 132.6, 130.9, 130.8, 130.4, 94.6, 81.2, 33.2, 30.5, 30.4, 30.2, 29.9, 23.9, 20.2, 14.6 IR (neat, cm−1): 3402 (br), 2920, 2849, 2214, 1686, 1607, 1428, 1319, 1283, 1178, 1112, 929, 862, 769. Anal. Calcd for C17H22O2: C, 79.03; H, 8.58. Found: C, 78.84; H, 8.48.

reactant | 4-chlorobenzoic acid | 0.50 mmol, 79 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 1-decyne | 0.75 mmol, 0.136 mL | C#CCCCCCCCC | C10H18
reactant | Cs2CO3 | 2.00 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 1.0 mL | O | H2O
catalyst | sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate | 0.0375 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)S(=O)(=O)[O-])C(C)C)C1CCCCC1.[Na+]
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 4-dec-1-ynyl-benzoic acid | 111 mg, 86% | C(#CCCCCCCCC)C1=CC=C(C(=O)O)C=C1 | C17H22O2
